US09062070B2
A solution of 3-bromo-4-fluoro-N-methoxy-N-methylbenzamide (50 g, 0.19 mol) in 500 mL of THF was cooled to 0° C. in ice bath, and then the mixture was added MeMgCl (27.3 g, 0.21 mol) dropwise. The reaction mixture was stirred under N2 for 1 h. The reaction mixture was quenched with sat. NH4Cl and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuum. The residue was purified with silica gel column chromatography to give 1-(3-bromo-4-fluorophenyl)ethanone.

reactant | 3-bromo-4-fluoro-N-methoxy-N-methylbenzamide | 0.19 mol, 50 g | BrC=1C=C(C(=O)N(C)OC)C=CC1F | C9H9BrFNO2
reactant | MeMgCl | 0.21 mol, 27.3 g | C[Mg]Cl
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 1-(3-bromo-4-fluorophenyl)ethanone | BrC=1C=C(C=CC1F)C(C)=O | C8H6BrFO
